US07598255B2
(2-Benzyl-6-p-tolyl-pyrimidin-4-ylmethyl)-dimethyl-amine
2-Benzyl-4-(tetrahydro-pyran-2-yloxymethyl)-6-p-tolyl-pyrimidine. To a solution of Pd(PPh3)2Cl2 (0.285 g, 0.41 mmol) and CuI in THF (50 mL) (0.148 g, 0.777 mmol) was added Et3N (1.5 mL, 11.0 mmol), p-toluoyl chloride (1.3 mL, 10.0 mmol) and tetrahydro-2-(2-propynyloxy)-2H-pyran (1.4 mL, 10.0 mmol). After stirring for 2.5 h, a solution of 2-phenylacetamidine hydrochloride (2.0 g, 11.7 mmol) in THF/MeOH (1:1, 10 mL) was added followed by additional MeOH (5 mL) and Na2CO3 (3.2 g, 30.0 mmol). The reaction mixture was heated at reflux for 15 h, cooled to rt, diluted with Et2O and filtered through a small pad of diatomaceous earth. The filtrate was concentrated and purified via SiO2 chromatography (10-45% EtOAc/hexanes) to give 2.0 g (53%) of the title compound. 1H NMR (CDCl3): 8.02-8.00 (m, 2H), 7.68 (s, 1H), 7.46-7.44 (m, 2H), 7.30-7.27 (m, 4H), 7.21-7.19 (m, 1H), 4.87 (d, J=14.7, 1H), 4.77 (t, J=3.5, 1H), 4.62 (d, J=15.1, 1H), 4.31 (s, 2H), 3.91-3.86 (m, 1H), 3.57-3.52 (m, 1H), 2.41 (s, 3H), 1.96-1.87 (m, 1H), 1.84-1.72 (m, 2H), 1.66-1.55 (m, 3H). Step B. (2-Benzyl-6-p-tolyl-pyrimidin-4-yl)-methanol. To a solution of the product from Step A (2.0 g, 5.3 g) in MeOH (30 mL) was added p-TsOH.H2O. After 18 h, the reaction was diluted with satd. aq. NaHCO3 and extracted with EtOAc (2×). The combined organic layers were dried and concentrated to give the 1.53 g (99%) of the title compound. MS (ESI): exact mass calcd. for C19H18N2O, 290.14; m/z found, 291.4 [M+H]+. 1H NMR (CDCl3): 8.00-7.98 (m, 2H), 7.45-7.43 (m, 3H), 7.32-7.28 (m, 4H), 7.23-7.20 (m, 1H), 4.74 (d, J=4.8, 2H), 4.33 (s, 2H), 3.62 (t, J=5.1, 1H), 2.42 (s, 3H). Step C. (2-Benzyl-6-p-tolyl-pyrimidin-4-ylmethyl)-dimethyl-amine. To a solution of the product from Step B (0.102 g, 0.35 mmol) in CH2Cl2 (2 mL) was added the Dess-Martin periodinane (0.228, 0.53 mmol). After 30 min, the mixture was diluted satd. aq. NaHCO3 and extracted with CH2Cl2 (2×). The combined organic layers were dried, concentrated, and filtered through a small plug of SiO2 (25% EtOAc in hexanes). The filtrate was concentrated to give 2-benzyl-6-p-tolyl-pyrimidine-4-carbaldehyde (0.55 g, 54%). To a solution of this aldehyde in CH2Cl2 (3 mL) was added dimethylamine (2 M in THF; 0.15 mL, 0.30 mmol) and NaBH(OAc)3 (0.058 mg, 0.27 mmol). After 15 h, the reaction was diluted with CH2Cl2 and washed with 1 N NaOH. The aqueous layer was extracted with CH2Cl2 (1×). The combined organic layers were dried and concentrated. The resulting residue was purified via SiO2 chromatography (1-7% 2 M NH3 in MeOH/CH2Cl2) to give 0.050 g (79%) of the title compound. MS (ESI): exact mass calcd. for C21H23N3, 317.19; m/z found, 318.4 [M+H]+. 1H NMR (CDCl3): 8.02 (d, J=8.2, 2H), 7.66 (s, 1H), 7.22 (d, J=7.5, 2H), 7.31-7.26 (m, 4H), 7.22-7.18 (m, 1H), 4.33 (s, 2H), 3.58 (s, 2H), 2.41 (s, 3H), 2.32 (s, 6H). The compounds in Examples 113-114 were prepared using methods similar to those described in Example 112, with the appropriate substituent changes.

reactant | 2-Benzyl-4-(tetrahydro-pyran-2-yloxymethyl)-6-p-tolyl-pyrimidine | C(C1=CC=CC=C1)C1=NC(=CC(=N1)COC1OCCCC1)C1=CC=C(C=C1)C | C24H26N2O2
reactant | THF | 0.777 mmol, 50 mL, 0.148 g | C1CCOC1 | C4H8O
reactant | Et3N | 11.0 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | p-toluoyl chloride | 10.0 mmol, 1.3 mL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | tetrahydro-2-(2-propynyloxy)-2H-pyran | 10.0 mmol, 1.4 mL | C(C#C)OC1OCCCC1 | C8H12O2
reactant | 2-phenylacetamidine hydrochloride | 11.7 mmol, 2.0 g | Cl.C1(=CC=CC=C1)CC(=N)N
reactant | Na2CO3 | 30.0 mmol, 3.2 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF MeOH | 10 mL | C1CCOC1.CO
solvent | Et2O | CCOCC | C4H10O
catalyst | Pd(PPh3)2Cl2 | 0.41 mmol, 0.285 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | [Cu]I
solvent | MeOH | 5 mL | CO | CH4O
product | (2-Benzyl-6-p-tolyl-pyrimidin-4-ylmethyl)-dimethyl-amine | 2.0 g, 53% | C(C1=CC=CC=C1)C1=NC(=CC(=N1)CN(C)C)C1=CC=C(C=C1)C | C21H23N3
